US08003625B2
Ethyl formate (500 mL) was added to sarcosin methyl ester hydrochloride (82 g, 585.7 mmol, grounded into powder prior to reaction) contained in a 1-L round-bottomed flask. The reaction mixture was cooled in an ice-water bath, stirred, a gas outlet connected with the flask, NaH (60% oil suspension, 54 g, 1.35 mol) added slowly during a period of 2 h, and stirred at rt for about 14 h. Volatiles were removed using a rotary evaporator to yield a residue which was triturated twice with hexane (500 mL) to yield a sticky light brown paste which was dissolved in ethanol (400 mL) and conc. HCl (50 mL) and stirred at 110° C. for 1.5 h. After the reaction mixture cooled, the white precipitate was filtered off and the residue washed with 2×25 mL of ethanol. The filtrate was evaporated to yield a thick brown oil to which was added 10% aqueous HOAc, H2NCN (45 g, 1.07 mol), and sodium acetate (88 g, 1.07 mol). The reaction mixture was stirred at 90-100° C. for 1.5 h to yield a clear solution which was cooled, its pH adjusted to 1 using concentrated HCl and the resulting solution concentrated to ⅕ its original volume using a rotary evaporator at a temperature not more than 45° C. The concentrated reaction mixture was carefully neutralized by addition of K2CO3 to a pH of 8-9 and extracted with EA (5×200 mL followed by 3×50 mL). The combined ethyl acetate layers were dried over MgSO4, filtered, and volatiles removed to yield 48 g of 1-N-methyl-2-amino imidazole-5-carboxylic acid ethyl ester.

reactant | Ethyl formate | 500 mL | C(=O)OCC | C3H6O2
reactant | sarcosin methyl ester hydrochloride | Cl.COC(CNC)=O
reactant | NaH | 1.35 mol, 54 g | [H-].[Na+]
reactant | HCl | 50 mL | Cl | ClH
reactant | H2NCN | 1.07 mol, 45 g | NC#N | CH2N2
reactant | sodium acetate | 1.07 mol, 88 g | C(C)(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 400 mL | C(C)O | C2H6O
solvent | HOAc | CC(=O)O | C2H4O2
product | 1-N-methyl-2-amino imidazole-5-carboxylic acid ethyl ester | 48 g | C(C)OC(=O)C1=CN=C(N1C)N | C7H11N3O2
